US08735362B2
Step A: [(R)-2-(2,2-Difluoro-ethyl)-3-oxo-isoxazolidin-4-yl]-carbamic acid tert-butyl ester
As described in Example 4, Step A, (3-oxo-isoxazolidin-4-yl)-carbamic acid tert-butyl ester (0.30 g) was alkylated with 2,2-difluoroethyl trifluoromethanesulfonate (0.35 g). to afford the title product as a white solid (138 mg); 1H-NMR (CDCl3, 400 MHz): 6.05 (tt, 1H), 5.10 (m, 1H), 4.90 (m, 1H), 4.35 (dt, 2H), 4.20 (dd, 1H), 1.50 (s, 9H); along with the O-alkylated product (179 mg): 1H-NMR (CDCl3, 400 MHz): 5.95 (tt, 1H), 4.80 (m, 1H), 4.60 (m, 1H), 3.80-4.10 (m, 3H), 1.50 (s, 9H).

reactant | (3-oxo-isoxazolidin-4-yl)-carbamic acid tert-butyl ester | 0.30 g | C(C)(C)(C)OC(NC1C(NOC1)=O)=O | C8H14N2O4
reactant | 2,2-difluoroethyl trifluoromethanesulfonate | 0.35 g | FC(S(=O)(=O)OCC(F)F)(F)F | C3H3F5O3S
product | [(R)-2-(2,2-Difluoro-ethyl)-3-oxo-isoxazolidin-4-yl]-carbamic acid tert-butyl ester | 138 mg | C(C)(C)(C)OC(N[C@H]1C(N(OC1)CC(F)F)=O)=O | C10H16F2N2O4
